US08541457B2
Synthesis of 2-(3-Fluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 3-fluorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 18% yield; m.p. 162-165° C.; 1H NMR (CDCl3, 300 MHz) δ 7.64-7.24 (m, 9H), 5.97 (t, J=5.4 Hz, 1H), 4.58 (d, J=5.4 Hz, 2H), 2.47 (s, 3H); MS (ES+) m/z 370.2 (M+1).

reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(3-Fluorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 18% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=CC=C1)F)=O)C | C19H16FN3O2S
